Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
syncope 
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
Patient is a ___ year old male who was in his usual state of
health today and traveled from ___ to attend the ___ game
today at 4pm.  He is accompanied by his friend ___ who provides
us with history.  Around 4:30 patient had a syncopal episode and
fell straight back landing on his back and striking his head. 
Positive loss of consciousness lasting two minutes and confusion
when evaluated by ___ medical staff on the scene.

Upon arrival patient underwent a CT that showed an occipital
skull fracture and bifrontal contusion.  Patient vomited once in
the ED during my exam.  Of note, patients friend and mother
provide history that he complained of significant rectal 
bleeding
from what he assumed was a hemorrhoid and has had blood in his
stool for the past few weeks.

 
Past Medical History:
Testicular torsion, Hernia repaired in childhood
 
Social History:
___
Family History:
nc
 
Physical Exam:
ON ADMISSION:

O: T:97.9  BP:111 /69         HR:82    R 18      O2Sats 100

Gen: WD/WN, comfortable, NAD.
HEENT: Slight tenderness in occipital region

Neck: Supple. no tenderness

Lungs: CTA bilaterally.
Cardiac: RRR. S1/S2.
Abd: Soft, NT, BS+
Extrem: Warm and well-perfused.
Neuro:
Mental status: Awake and alert, Confused to date, month, year 
and
president. Amnestic to events surrounding injury and hours
before.

Recall: ___ objects at 2 minutes.

Language: Speech fluent with good comprehension and repetition.
Naming intact. No dysarthria or paraphasic errors.

Cranial Nerves:
I: Not tested
II: Pupils equally round and reactive to light,4 to 2
mm bilaterally. Visual fields are full to confrontation.
III, IV, VI: Extraocular movements intact bilaterally without
nystagmus.
V, VII: Facial strength and sensation intact and symmetric.
VIII: Hearing intact to voice.
IX, X: Palatal elevation symmetrical.
XI: Sternocleidomastoid and trapezius normal bilaterally.
XII: Tongue midline without fasciculations.

Motor: Normal bulk and tone bilaterally. No abnormal movements,
tremors. Strength full power ___ throughout. No pronator drift

Sensation: Intact to light touch, propioception, 

Toes downgoing bilaterally

Coordination: normal on finger-nose-finger

Handedness Left or Right

CT: Occipital bone fracture, bifrontal contusions

ON DISCHARGE: ****
 
Pertinent Results:
ADMISSION LABS:
___ 07:03PM   LACTATE-3.6*
___ 06:56PM   GLUCOSE-122* UREA N-15 CREAT-1.3* SODIUM-139 
POTASSIUM-4.5 CHLORIDE-100 TOTAL CO2-21* ANION GAP-23*
___ 06:56PM   estGFR-Using this
___ 06:56PM   ALT(SGPT)-37 AST(SGOT)-26 ALK PHOS-86 TOT 
BILI-1.6*
___ 06:56PM   LIPASE-18
___ 06:56PM   ALBUMIN-5.0 CALCIUM-10.2 PHOSPHATE-1.9* 
MAGNESIUM-2.0
___ 06:56PM   ASA-NEG ETHANOL-23* ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 06:56PM   WBC-14.6* RBC-5.29 HGB-16.3 HCT-45.9 MCV-87 
MCH-30.8 MCHC-35.5 RDW-11.8 RDWSD-37.4
___ 06:56PM   NEUTS-82.2* LYMPHS-9.7* MONOS-7.2 EOS-0.2* 
BASOS-0.2 IM ___ AbsNeut-11.98* AbsLymp-1.42 AbsMono-1.05* 
AbsEos-0.03* AbsBaso-0.03
___ 06:56PM   PLT COUNT-186

IMAGING:
CT Head w/o contrast ___
IMPRESSION:
 
 
1. Hemorrhagic contusion in the inferior frontal lobes and left
inferior/anterior temporal lobe.
2. Occipital fractures extending to the right and left skullbase 
without
depression or displacement.  Fracture line abuts the sigmoid 
sinus and jugular
foramina on the left.

CT C-spine ___
IMPRESSION:
 
 
1. No fracture or alignment abnormality in the cervical spine.
2. Nondisplaced occipital fractures extending to the right and 
left skullbase.

CXR ___
 
IMPRESSION: 
 
No acute intrathoracic process.

CT Head w/o contrast ___
MPRESSION:
 
 
1. Stable subarachnoid hemorrhage along bilateral inferior 
frontal lobes,
inferior/anterior left temporal lobe, and in the left sylvian 
fissure.
2. Stable hemorrhagic contusion in the left gyrus rectus.  It is 
not clear
whether there is any parenchymal blood in the anterior left 
temporal lobe.
3. Nondisplaced bilateral occipital bone fracture is again seen, 
extending
through the right hypoglossal foramen, left sigmoid sinus, and 
left jugular
fossa.
4. Persistent small amount of fluid in the right sphenoid sinus. 
 Persistent
secretions in a left posterior ethmoid air cell and left 
sphenoid sinus.

CTV ___
IMPRESSION:
 
 
1. Evolution of bilateral inferior frontal and left 
anterior/inferior temporal
hemorrhagic contusions with slightly increased surrounding 
vasogenic edema. 
Superimposed subarachnoid hemorrhages also grossly unchanged 
allowing for
redistribution.  No evidence of new hemorrhage.
2. Nondisplaced bilateral occipital fractures are grossly 
unchanged.
3. There is no evidence of dural or deep venous sinus 
thrombosis.

ECHO ___
The left atrium is normal in size. Normal left ventricular wall 
thickness, cavity size, and global systolic function (3D LVEF = 
60%). Tissue Doppler imaging suggests a normal left ventricular 
filling pressure (PCWP<12mmHg). Right ventricular chamber size 
and free wall motion are normal. The diameters of aorta at the 
sinus, ascending and arch levels are normal. The aortic valve 
leaflets (3) appear structurally normal with good leaflet 
excursion and no aortic stenosis or aortic regurgitation. The 
mitral valve leaflets are structurally normal. Mild (1+) mitral 
regurgitation is seen. There is no pericardial effusion. 

IMPRESSION: Normal global and regional biventricular systolic 
function. Mild mitral regurgitation in a structurally-normal 
valve.

DISCHARGE LABS:
___ 04:50AM BLOOD WBC-8.9 RBC-4.58* Hgb-14.2 Hct-40.8 
MCV-89 MCH-31.0 MCHC-34.8 RDW-11.9 RDWSD-38.6 Plt ___
___ 04:50AM BLOOD Plt ___
___ 04:50AM BLOOD Glucose-82 UreaN-10 Creat-1.1 Na-141 
K-3.8 Cl-100 HCO3-28 AnGap-17
___ 04:50AM BLOOD Calcium-9.1 Phos-3.6 Mg-2.___ year old male presented to ___ after syncopal episode at 
baseball game; + LOC. In the ED, CT Head was completed showing 
occipital bone fracture and bifrontal contusions.

#Syncope
Likely secondary to dehydration and vasovagal response in 
setting of etoh use and standing in hot day. Patient 
additionally was orthostatic on admission. Unable to get history 
of event secondary to retrograde amnesia. Also would be 
concerned about cardiac etiology such as HOCM given young age 
and FHx of syncopal episodes, but TTE was reassuring. Could also 
consider seizures, but per limited collateral no evidence of 
jerking movement, fecal/urinary incontinence. No events on 
telemetry. 

#Occipital fracture/bifrontal contusions
Secondary to headstrike. No surgical intervention necessary per 
surgery. Patient with stable symptoms, but retrograde amnesia of 
event. Complains of only mild headache on discharge, controlled 
with Tylenol. Started on keppra 1000 mg BID x 7 days (D1 = 
___. Patient to f/u in ___ clinic. 

#Ketonuria
Seen on admission, likely starvation/etoh ketosis. HgbA1c 4.5

#Hematuria
Patient reports having had 1x episode of dysuria on admission, 
also with intermittent single episode dysuria in the past. 
Likely hematuria may also be in setting of fall/trauma. Urine 
culture negative. ___ need repeat UA outpatient to ensure 
resolution of hematuria. 

#History of BRBPR
#Normocytic anemia: Hgb 16.3 on admission, downtrended to 13.5. 
Stable at 14.3 on discharge. Likely hemoconcentration from 
dehydration. No episodes of BRBPR reported this admission and 
remained hemodynamically stable throughout. 

TRANSITIONAL ISSUES
===================
- Last day of Keppra ___.
- Please repeat UA to assess for hematuria/ketonuria.
- Please monitor for BRBPR, further work-up as necessary. 
- Avoid all NSAIDs (ie ibuprofen) until your follow-up with Dr. 
___. 
- Do not return to work until cleared by Dr ___ Dr. 
___. 
 
Medications on Admission:
No prescription medications 
multiple supplements 
 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN Pain - Moderate 
RX *acetaminophen 650 mg 1 tablet(s) by mouth Q6H:PRN Disp #*60 
Tablet Refills:*0 
2.  LevETIRAcetam 1000 mg PO BID 
RX *levetiracetam 1,000 mg 1 tablet(s) by mouth twice a day Disp 
#*8 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Bifrontal Contusions
Syncope 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to ___ after an episode of passing out with 
head strike. You had imaging of your head done which showed 
small brain bleeds as a result of your fall. You were evaluated 
by our neurosurgeons and monitored closely. We also did tests to 
make sure your heart was healthy and not the cause of you 
passing out. These were normal. You likely passed out due to 
dehydration. You were treated with Tylenol for your headaches 
improved. It is now safe for you to go home. Please read the 
information below regarding traumatic brain injuries and 
concussions. Please refrain from returning to work until you are 
cleared by the ___ clinic. Please follow-up at the 
appointments below. It was a pleasure caring for you.

Wishing you the best,

Your ___ Team

Traumatic Brain Injury
Activity

·     We recommend that you avoid heavy lifting, running, 
climbing, or other strenuous exercise until your follow-up 
appointment.

·     You make take leisurely walks and slowly increase your 
activity at your own pace once you are symptom free at rest. 
___ try to do too much all at once.

·     No driving while taking any narcotic or sedating 
medication. 

·     If you experienced a seizure while admitted, you are NOT 
allowed to drive by law. 

·     No contact sports until cleared by your neurosurgeon. You 
should avoid contact sports for 6 months. 

 
Medications

·     ***Please do NOT take any blood thinning medication 
(Aspirin, Ibuprofen, Plavix, Coumadin) until cleared by the 
neurosurgeon. 

·     ***You have been discharged on Keppra (Levetiracetam). 
This medication helps to prevent seizures. Please continue this 
medication as indicated on your discharge instruction. It is 
important that you take this medication consistently and on 
time. 

·     You may use Acetaminophen (Tylenol) for minor discomfort 
if you are not otherwise restricted from taking this medication.

What You ___ Experience:

·     You may have difficulty paying attention, concentrating, 
and remembering new information.

·     Emotional and/or behavioral difficulties are common. 

·     Feeling more tired, restlessness, irritability, and mood 
swings are also common.

·     Constipation is common. Be sure to drink plenty of fluids 
and eat a high-fiber diet. If you are taking narcotics 
(prescription pain medications), try an over-the-counter stool 
softener.

Headaches:

·     Headache is one of the most common symptoms after 
traumatic brain injury. Headaches can be long-lasting. 

·     Most headaches are not dangerous but you should call your 
doctor if the headache gets worse, develop arm or leg weakness, 
increased sleepiness, and/or have nausea or vomiting with a 
headache. 

·     Mild pain medications may be helpful with these headaches 
but avoid taking pain medications on a daily basis unless 
prescribed by your doctor. 

·     There are other things that can be done to help with your 
headaches: avoid caffeine, get enough sleep, daily exercise, 
relaxation/ meditation, massage, acupuncture, heat or ice packs. 


More Information about Brain Injuries:

·     You were given information about headaches after TBI and 
the impact that TBI can have on your family.

·     If you would like to read more about other topics such as: 
sleeping, driving, cognitive problems, emotional problems, 
fatigue, seizures, return to school, depression, balance, or/and 
sexuality after TBI, please ask our staff for this information 
or visit ___

 
 

When to Call Your Doctor at ___ for:

·     Severe pain, swelling, redness or drainage from the 
incision site. 

·     Fever greater than 101.5 degrees Fahrenheit

·     Nausea and/or vomiting

·     Extreme sleepiness and not being able to stay awake

·     Severe headaches not relieved by pain relievers

·     Seizures

·     Any new problems with your vision or ability to speak

·     Weakness or changes in sensation in your face, arms, or 
leg

 

Call ___ and go to the nearest Emergency Room if you experience 
any of the following:

·     Sudden numbness or weakness in the face, arm, or leg

·     Sudden confusion or trouble speaking or understanding

·     Sudden trouble walking, dizziness, or loss of balance or 
coordination

·     Sudden severe headaches with no known reason

 

 
Followup Instructions:
___